US04237289
7-Amino-1,4-dimethylpyrimido{4,5-c}pyridazine-3,5-(1H, 6H)-dione
4-Acetonyl-7-amino-1-methylpyrimido{4,5-c}-pyridazine-3,5-(1H, 2H)-dione (0.054 g) was dissolved in boiling methyl cellosolve (1 l), and the solution was concentrated to 40 ml when precipitated solid was noticed to be present. The mixture was allowed to cool to room temperature and stand overnight. Yellowish-green solid was collected, washed with methyl cellosolve (10 ml) methanol (2 ml), and dried under vacuum at 75° C. to yield 0.018 g (35%) of product: nmr (CF3COOH) δ 3.03(s, 3H), 4.26(s, 3H), 6.83(br s, 2H).

reactant | 4-Acetonyl-7-amino-1-methylpyrimido{4,5-c}-pyridazine-3,5-(1H, 2H)-dione | 0.054 g | C(C(=O)C)C1=C2C(N(NC1=O)C)=NC(=NC2=O)N | C10H11N5O3
solvent | methyl cellosolve | 1 l | COCCO | C3H8O2
product | 7-Amino-1,4-dimethylpyrimido{4,5-c}pyridazine-3,5-(1H, 6H)-dione | 0.018 g, 35% | NC=1NC(C2=C(N(NC(C2C)=O)C)N1)=O | C8H11N5O2
